US08623887B2
E-1) 2-methylsulphanyl-1H-pyrimidin-4-one
20 g (153 mmol) 2-thiouracil are suspended in 250 mL MeOH and then 8.7 g (152.9 mmol, 1 eq) sodium methoxide are added. The solution is stirred for 5 min at RT and then 12.4 mL (198.8 mmol, 1.3 eq) methyl iodide are added dropwise. The reaction mixture is stirred overnight, then poured onto water and extracted 3× with approx. 150 mL chloroform. The combined organic phases are dried on MgSO4, the solvent is eliminated in vacuo and 16 g E-1 are obtained.

reactant | 2-thiouracil | 153 mmol, 20 g | N1C(=S)NC(=O)C=C1 | C4H4N2OS
reactant | sodium methoxide | 152.9 mmol, 8.7 g, 1 eq | C[O-].[Na+]
reactant | methyl iodide | 198.8 mmol, 12.4 mL, 1.3 eq | CI | CH3I
solvent | MeOH | 250 mL | CO | CH4O
product | 2-methylsulphanyl-1H-pyrimidin-4-one | CSC=1NC=CC(N1)=O | C5H6N2OS
